US06837908B2
1. Synthesis of 2-methoxy-3-nitro-6-(pyrrolidin-1-yl)pyridine
4.79 g (0.021 mol) of 6-chloro-2-methoxy-3-nitropyridine, 40 ml of ethanol and 3.5 ml (0.042 mol) of pyrrolidine are charged to a fully equipped round-bottomed flask. The mixture is brought to reflux for 1 hour with stirring and then the mixture is cooled to ambient temperature. The product which crystallizes is filtered off and then washed with diisopropyl ether. After drying, 4.6 g of yellow powder are obtained, Yd: 96%.

reactant | 6-chloro-2-methoxy-3-nitropyridine | 0.021 mol, 4.79 g | ClC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5ClN2O3
reactant | pyrrolidine | 0.042 mol, 3.5 ml | N1CCCC1 | C4H9N
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 2-methoxy-3-nitro-6-(pyrrolidin-1-yl)pyridine | 4.6 g | COC1=NC(=CC=C1[N+](=O)[O-])N1CCCC1 | C10H13N3O3
